US07208495B2
methyl 2-(2,3,5-trimethyl phenoxy)isobutyrate
To a solution of 2,3,5-trimethylphenol (20.0 g, 147 mmol) in dimethylsulfoxide (100 ml) was added methyl 2-bromoisobutyrate (52.2 g, 288 mmol) and potassium carbonate (40.0 g, 289 mmol) at room temperature. The mixture was stirred for 36 hours. The resulting mixture was poured into water and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified using basic silica gel column chromatography (hexane/ethyl acetate=50/1) to obtain 30.3 g (yield 87%) of oily title compound.

reactant | 2,3,5-trimethylphenol | 147 mmol, 20.0 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | methyl 2-bromoisobutyrate | 288 mmol, 52.2 g | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | potassium carbonate | 289 mmol, 40.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | methyl 2-(2,3,5-trimethyl phenoxy)isobutyrate | 30.3 g, yield 87% | CC1=C(OC(C(=O)OC)(C)C)C=C(C=C1C)C | C14H20O3
